data/polar.json
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH3:1][CH:15]=[CH:10][CH2:16][B-:11]1([c:35]2[cH:31][c:33]([C:13]([F:21])([F:22])[F:23])[cH:2][c:34]([C:14]([F:24])([F:25])[F:26])[cH:32]2)[O:27][C:3]([CH3:5])([CH3:6])[C:4]([CH3:7])([CH3:8])[O:28]1.[CH:9](=[O+:30][CH3:29])[c:36]1[cH:19][cH:17][cH:12][cH:18][cH:20]1>>[CH3:1][CH:15]([CH:9]([O:30][CH3:29])[c:36]1[cH:19][cH:17][cH:12][cH:18][cH:20]1)[CH+:10][CH2:16][B-:11]1([c:35]2[cH:31][c:33]([C:13]([F:21])([F:22])[F:23])[cH:2][c:34]([C:14]([F:24])([F:25])[F:26])[cH:32]2)[O:27][C:3]([CH3:5])([CH3:6])[C:4]([CH3:7])([CH3:8])[O:28]1", "epd": [["Pi-/Sigma+", [15, 10], [15, 9]], ["Pi-/LP+", [9, 30], [30]]]}
{"reaction_name": "Neutral lone-pair capture of a preformed localized carbocation", "rsmi": "[c:1]1([P:29]([c:2]2[cH:12][cH:18][c:37]([N:9]([CH3:25])[CH3:26])[cH:19][cH:13]2)[c:3]2[cH:14][cH:20][c:38]([N:10]([CH3:27])[CH3:28])[cH:21][cH:15]2)[cH:11][cH:17][c:36]([N:8]([CH3:23])[CH3:24])[cH:22][cH:16]1.[cH:4]1[c:30]([CH+:45][c:31]2[cH:5][c:34]([F:41])[cH:44][c:35]([F:42])[cH:6]2)[cH:7][c:32]([F:39])[cH:43][c:33]1[F:40]>>[c:1]1([P+:29]([c:2]2[cH:12][cH:18][c:37]([N:9]([CH3:25])[CH3:26])[cH:19][cH:13]2)([c:3]2[cH:14][cH:20][c:38]([N:10]([CH3:27])[CH3:28])[cH:21][cH:15]2)[CH:45]([c:30]2[cH:4][c:33]([F:40])[cH:43][c:32]([F:39])[cH:7]2)[c:31]2[cH:5][c:34]([F:41])[cH:44][c:35]([F:42])[cH:6]2)[cH:11][cH:17][c:36]([N:8]([CH3:23])[CH3:24])[cH:22][cH:16]1", "epd": [["LP-/Sigma+", [29], [29, 45]]]}
{"reaction_name": "Aza-Grob fragmentation", "rsmi": "[NH:1]([CH2:3][CH:7]([O-:4])[CH2:5][CH2:6][Cl:2])[CH3:8]>>[CH2:5]=[CH2:6].[Cl-:2].[NH:1]([CH2:3][CH:7]=[O:4])[CH3:8]", "epd": [["Sigma-/Pi+", [5, 7], [5, 6]], ["Sigma-/LP+", [2, 6], [2]], ["LP-/Pi+", [4], [4, 7]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH:1]1([C:7](=[O:31])[O:39][CH3:14])[CH2:15][CH2:36][CH2:32][N:38]1[C:33]1=[CH:19][CH2:6][CH2:37][CH2:26][CH2:8]1.[O:2]=[S:17](=[O:3])([N:16]([S:13][C:9]([F:10])([F:11])[F:12])[S:18](=[O:4])(=[O:5])[c:35]1[cH:22][cH:29][cH:25][cH:30][cH:23]1)[c:34]1[cH:20][cH:27][cH:24][cH:28][cH:21]1>>[CH:1]1([C:7](=[O:31])[O:39][CH3:14])[CH2:15][CH2:36][CH2:32][N+:38]1=[C:33]1[CH2:8][CH2:26][CH2:37][CH2:6][CH:19]1[S:13][C:9]([F:10])([F:11])[F:12].[O:2]=[S:17](=[O:3])([N-:16][S:18](=[O:4])(=[O:5])[c:35]1[cH:22][cH:29][cH:25][cH:30][cH:23]1)[c:34]1[cH:20][cH:27][cH:24][cH:28][cH:21]1", "epd": [["LP-/Pi+", [38], [33, 38]], ["Pi-/Sigma+", [19, 33], [19, 13]], ["Sigma-/LP+", [13, 16], [16]]]}
{"reaction_name": "SNi alcohol-to-chloride conversion", "rsmi": "[Cl:1][S:5]([Cl:2])=[O:6].[O:3]([CH:4]([CH3:7])[CH3:8])[H:9]>>[Cl:1][H:9].[Cl:2][CH:4]([CH3:7])[CH3:8].[O:3]=[S:5]=[O:6]", "epd": [["LP-/Sigma+", [2], [2, 4]], ["Sigma-/LP+", [3, 4], [3]], ["LP-/Sigma+", [3], [3, 5]], ["Sigma-/LP+", [1, 5], [1]], ["LP-/Sigma+", [1], [1, 9]], ["Sigma-/LP+", [3, 9], [3]], ["LP-/Pi+", [3], [3, 5]], ["Sigma-/LP+", [2, 5], [2]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:1](#[N:10])[C:16]([C:2]#[N:11])=[CH:6][c:17]1[cH:7][cH:14][cH:18][cH:15][cH:8]1.[C:3]1(=[O:5])[N-:4][CH2:12][CH2:13][O:9]1>>[C:1](=[N-:10])=[C:16]([C:2]#[N:11])[CH:6]([N:4]1[C:3](=[O:5])[O:9][CH2:13][CH2:12]1)[c:17]1[cH:7][cH:14][cH:18][cH:15][cH:8]1", "epd": [["LP-/Sigma+", [4], [4, 6]], ["Pi-/Pi+", [6, 16], [16, 1]], ["Pi-/LP+", [1, 10], [10]]]}
{"reaction_name": "Mannich–cyclization sequence", "rsmi": "[CH2:1]1[CH2:2][CH2:4][N+:15](=[CH2:11])[CH2:3]1.[H:13][O-:14].[H:5][C:12]([H:6])([H:7])[C:9]([CH3:8])=[O:10]>>[CH2:1]1[CH2:2][CH2:4][N:15]([CH2:11][C:12]([H:6])([H:7])[C:9]([CH3:8])=[O:10])[CH2:3]1.[H:5][O:14][H:13]", "epd": [["LP-/Sigma+", [14], [5, 14]], ["Sigma-/Sigma+", [5, 12], [11, 12]], ["Pi-/LP+", [11, 15], [15]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]([C:14](=[O:15])[c:21]1[cH:6][cH:29][c:18]([N:28]([CH3:22])[CH3:23])[cH:30][cH:7]1)=[S:31]([CH3:9])[CH3:10].[O-:2][n+:8]1[o:26][n:17][c:11]2[c:13]3[n+:5]([O-:19])[o:3][n:24][c:16]3[c:20]([N+:4]([O-:25])=[O:27])[cH:12][c:32]12>>[CH:1]([CH:12]1[C:20](=[N+:4]([O-:25])[O-:27])[c:16]2[c:13]([n+:5]([O-:19])[o:3][n:24]2)-[c:11]2[n:17][o:26][n+:8]([O-:2])[c:32]21)([C:14](=[O:15])[c:21]1[cH:6][cH:29][c:18]([N:28]([CH3:22])[CH3:23])[cH:30][cH:7]1)[S+:31]([CH3:9])[CH3:10]", "epd": [["Pi-/Sigma+", [1, 31], [1, 12]], ["Pi-/Pi+", [12, 20], [20, 4]], ["Pi-/LP+", [4, 27], [27]]]}
